US04735940
(ba) 26 g of methyl 3-hydroxy-2-(α,α,α-trifluoro-m-tolyl)acrylate were dissolved in 1N sodium hydroxide solution while cooling in an ice-bath and treated with 10.6 ml of dimethyl sulfate. The mixture was stirred at about 0° for about 40 hours and an additional 40 ml of 1N sodium hydroxide solution and 3.8 ml of dimethyl sulfate were added. After the reaction was completed, the mixture was diluted with water and extracted with methylene chloride. After drying with sodium sulfate, the extract was distilled, whereby methyl 3-methoxy-2-(α,α,α-trifluoro-m-tolyl)-acrylate was obtained as a colorless oil of b.p. 75°-90°/0.2 mm.

reactant | methyl 3-hydroxy-2-(α,α,α-trifluoro-m-tolyl)acrylate | 26 g | OC=C(C(=O)OC)C=1C=C(C=CC1)C(F)(F)F | C11H9F3O3
reactant | dimethyl sulfate | 10.6 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | dimethyl sulfate | 3.8 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | O | H2O
solvent | sodium hydroxide | 1N, 40 ml | [OH-].[Na+]
product | methyl 3-methoxy-2-(α,α,α-trifluoro-m-tolyl)-acrylate | COC=C(C(=O)OC)C=1C=C(C=CC1)C(F)(F)F | C12H11F3O3
